US08563599B2
2′,7-Dibenzyloxy-4′-methoxymethyloxy-isoflav-3-ene
To a solution of 2-(5-Benzyloxy-2-hydroxymethyl-phenoxy)-1-(2-benzyloxy-4-methoxymethyloxy-phenyl)-ethanone (0.514 g, 1 mmol) in 5 mL of acetonitrile was added triphenyl phosphine hydrobromide (0.343 g, 1 mmol) and the suspension stirred at RT for ca. 4 hours. After disappearance of starting material (TLC), organic solvent was evaporated at 20° C. to provide a yellowish solid. The solid was redissolved in 5 mL of DCM and anhydrous ether was added with constant stirring. The white Wittig's ylide precipitated. This product was used directly in the next step without further purification. The crude product (ca. 0.80 g) was dissolved in 10 mL of methanol followed by addition of sodium methoxide (0.108 g, 2 mmol). The suspension was refluxed for ca. 12 hours after which it was allowed to come to RT. A white solid precipitated. The precipitate was filtered and the filtrate was concentrated to ca. one-half the volume and again refluxed for 4 hours after which it provided additional product upon cooling to RT. The combined product was recrystallized from methanol (ca. 30 mL) to obtain 0.374 g (78%) of white solid: mp 132-134° C.; TLC Rf0.43, in hexanes:EtOAc (5:1); 1H NMR (600 MHz, acetone-d6) δ 7.51-7.31 (m, 10H, 2×C6H5), 7.28-7.27 (d, 1H, J=8.4 Hz, Ar—H5), 7.01-7.00 (d, 1H, J=7.8 Hz, Ar—H6′), 6.8 (d, 1H, J=2.4 Hz, Ar—H8), 6.69-6.67 (dd, 1H, 2J=8.4 Hz, 3J=2.4 Hz, Ar—H6), 6.60 (s, 1H, Ar—H4), 6.57-6.55 (dd, 1H, 2J=8.4 Hz, 3J=2.4 Hz, Ar—H5′), 6.46 (d, 1H, J=2.4 Hz, Ar—H3′), 5.2 (s, 2H, O—CH2—O), 5.13 (s, 2H, PhCH2), 5.09 (s, 2H, PhCH2), 4.92 (s, 2H, H2), 3.42 (s, 3H, OCH3); 13C NMR (100 MHz, acetone-d6) δ 161.1, 159.9, 158.9, 156.3, 138.9, 138.5, 130.6, 130.5, 130, 129.9, 129.4, 129.3, 129.2, 129, 128.9, 123.2, 122.6, 118.8, 109.6, 103.6, 103.2, 95.8, 71.8, 71.1, 69.6, 56.7; analysis calcd. for C31H28O5. C, 77.01; H, 5.80. found: C, 77.0; H, 5.80.

reactant | 2-(5-Benzyloxy-2-hydroxymethyl-phenoxy)-1-(2-benzyloxy-4-methoxymethyloxy-phenyl)-ethanone | 1 mmol, 0.514 g | C(C1=CC=CC=C1)OC=1C=CC(=C(OCC(=O)C2=C(C=C(C=C2)OCOC)OCC2=CC=CC=C2)C1)CO | C31H30O7
reactant | triphenyl phosphine hydrobromide | 1 mmol, 0.343 g | Br.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
reactant | ether | CCOCC | C4H10O
reactant | sodium methoxide | 2 mmol, 0.108 g | C[O-].[Na+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2′,7-Dibenzyloxy-4′-methoxymethyloxy-isoflav-3-ene | 0.374 g, 78% | C(C1=CC=CC=C1)OC1=C(C=2COC3=CC(=CC=C3C2)OCC2=CC=CC=C2)C=CC(=C1)OCOC | C31H28O5
